US07112610B2
(R)-4-Methyl-octanoic acid.
Lithium chloride (0.39 g, 9.12 mmol) and copper (I) chloride (0.61 g, 4.56 mmol) were combined in 45 ml THF at ambient temperature and stirred 15 minutes, then cooled to 0° C. at which time ethylmagnesium bromide (1 M solution in THF, 45 mL, 45 mmol) was added. (S)-citronellyl bromide (5.0 g, 22.8 mmol) was added dropwise and the solution was allowed to warm slowly to ambient temperature with stirring overnight. The reaction was quenched by cautious addition of sat. NH4Cl (aq), and stirred with Et2O and sat. NH4Cl (aq) for 30 minutes. The phases were separated and the organic phase dried (MgSO4) and concentrated. The crude (R)-2,6-dimethyl-dec-2-ene was used without purification. To a solution of (R)-2,6-dimethyl-dec-2-ene (3.8 g, 22.8 mmol) in 50 mL acetone at 0° C. was added Jones' reagent (2.7 M in H2SO4 (aq), 40 mL, 108 mmol) and the solution was allowed to warm slowly to ambient temperature with stirring overnight. The mixture was partitioned between Et2O and H2O, the phases were separated, and the organic phase washed with brine, dried (MgSO4), and concentrated. The residue was purified by flash chromatography (8:1 hexanes:EtOAc) to afford 2.14 g (59%) of the titled compound as a colorless oil: LRMS: m/z 156.9 (M+); 1H NMR (400 MHz; CDCl3): δ2.33 (m, 2H), 1.66 (m, 1H), 1.43 (m, 2H), 1.23 (m, 5H), 1.10 (m, 1H), 0.86 (m, 6H). Jones' reagent was prepared as a 2.7M solution by combining 26.7 g CrO3, 23 mL H2SO4, and diluting to 100 mL with H2O.

reactant | Lithium chloride | 9.12 mmol, 0.39 g | [Cl-].[Li+]
reactant | ethylmagnesium bromide | 45 mmol, 1 M, 45 mL | C(C)[Mg]Br
reactant | (S)-citronellyl bromide | 22.8 mmol, 5.0 g | C(C[C@@H](C)CCC=C(C)C)Br | C10H19Br
reactant | (R)-2,6-dimethyl-dec-2-ene | 22.8 mmol, 3.8 g | CC(C)=CCC[C@@H](CCCC)C | C12H24
reactant | Jones' reagent | 108 mmol, 2.7 M, 40 mL | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | THF | 45 ml | C1CCOC1 | C4H8O
solvent | acetone | 50 mL | CC(=O)C | C3H6O
catalyst | copper (I) chloride | 4.56 mmol, 0.61 g | [Cu]Cl
product | (R)-4-Methyl-octanoic acid | 2.14 g, 59% | C[C@@H](CCC(=O)O)CCCC | C9H18O2
